US09422285B2
2-[(2,6-Difluorobenzyl)oxy]-4-methoxypyridine
To a solution of 3.5 g (27.53 mmol) of 2-fluoro-4-methoxypyridine (CAS: 175965-83-0) and 3.97 g (27.53 mmol) of 2,6-difluorobenzyl alcohol in 97 ml of dry tetrahydrofuran, cooled beforehand to 0° C., were added dropwise 27.5 ml (27.53 mmol) of a 1M solution of potassium tert-butoxide in tetrahydrofuran. The resulting mixture was stirred at room temperature for 18 hours. The solvent was evaporated off and the residue was partitioned between water and ethyl acetate. The organic phase was removed, washed with water and aqueous sodium chloride solution, dried over sodium sulphate, filtered and concentrated under reduced pressure, which gave 5.77 g (66% yield, 79% purity) of the product.

reactant | 2-fluoro-4-methoxypyridine | 27.53 mmol, 3.5 g | FC1=NC=CC(=C1)OC | C6H6FNO
reactant | 2,6-difluorobenzyl alcohol | 27.53 mmol, 3.97 g | FC1=C(CO)C(=CC=C1)F | C7H6F2O
reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
solvent | tetrahydrofuran | 97 ml | O1CCCC1 | C4H8O
product | 2-[(2,6-Difluorobenzyl)oxy]-4-methoxypyridine | 66% yield | FC1=C(COC2=NC=CC(=C2)OC)C(=CC=C1)F | C13H11F2NO2
